* source BELAB13
M_M1         N02980 N02980 N02968 N02968 MOS1  
+ L=0.25u  
+ W=6.25u         
M_M2         N03045 N02980 N02968 N02968 MOS1  
+ L=0.25u  
+ W=6.25u         
M_M4         N03045 N03367 N03165 N03165 MOS2           
R_R1         N03169 N02980  10k TC=0,0 
M_M5         N03169 N03169 N03201 N03201 MOS2           
M_M6         N03165 N03169 N03201 N03201 MOS2           
V_V1         0 N03201 5
V_V2         N02968 0 5
C_C1         N03165 0  1n  TC=0,0 
V_V3         N03367 0  AC 0
+SIN 0 10m 5k 0 0 0
C_C2         N03679 N03045  10u  TC=0,0 
R_R2         0 N03679  100Meg TC=0,0 
