* source LAB10 TASK 4
C_C1         N02382 N01919  1u  TC=0,0 
C_C2         N02505 N01895  1u  TC=0,0 
V_V2         N01837 0 10
V_V3         N02382 0  AC 0
+SIN 0 60m 5k 0 0 0
R_R1         N01919 N01837  100k TC=0,0 
R_R3         0 N02043  100 TC=0,0 
R_R4         0 N02505  100meg TC=0,0 
C_C3         0 N02043  15u  TC=0,0 
X_U2         N01895 N01919 N02043 2N7000
R_R2         0 N01919  56k TC=0,0 
R_R5         N01895 N01837  220 TC=0,0 
