* source LAB01
R_R1         N00106 N00113  2.2k TC=0,0 
V_V1         N00106 0 5
X_D6         N00113 0 awb1n4001 PARAMS:                
R_R2         0 N00113  1k TC=0,0 
