* source LAB03
V_V1         N00135 0 2.7
V_V2         N00379 0 10
R_R1         N00135 N00142  100k TC=0,0 
X_Q1         N00383 N00142 0 awb2n3904 PARAMS:                                 
+            
R_R2         N00383 N00379  1k TC=0,0 
