* source LAB11
V_V2         N00860 0 10
C_C1         N01016 N00938  1u  TC=0,0 
V_V3         N01016 0  AC 0
+SIN 0 20m 5k 0 0 0
C_C2         N00980 N00910  1u  TC=0,0 
R_R3         0 N01048  100 TC=0,0 
R_R1         N00938 N00860  100k TC=0,0 
C_C3         0 N01048  15u  TC=0,0 
R_R4         0 N00980  100meg TC=0,0 
R_R2         0 N00938  56k TC=0,0 
V_V5         N03812 0 -3
M_M4         N00860 N03812 N00910 N00910 PMOS           
X_U3         N00910 N00938 N01048 2N7000
