* source LAB01_TASK6
V_V1         N011330 0 5
X_D1         N01211 N01207 awb1n4001 PARAMS:                
R_R1         N011330 N01211  2.2k TC=0,0 
R_R2         0 N01207  1k TC=0,0 
