* source LAB9_TASK_2
X_U1         N00973 N01068 0 2N7000
R_R1         N00973 N01020  1k TC=0,0 
V_V1         N01020 0 10Vdc
V_V2         N01068 0 10Vdc
