* source PROJECT_BE
V_V1         N00177 0 12
V_V2         N00348 0  AC 0
+SIN 0 15mV 1k 0 0 0
R_R1         N00231 N00177  62k TC=0,0 
R_R2         0 N00231  13k TC=0,0 
R_R3         N00299 N00295  150 TC=0,0 
R_R4         0 N00299  680 TC=0,0 
C_C1         N00348 N00231  10u  TC=0,0 
C_C2         0 N00299  470u  TC=0,0 
R_R5         N00553 N00177  2.7k TC=0,0 
C_C3         N00553 N01382  10u  TC=0,0 
R_R6         0 N01435  3.9k TC=0,0 
R_R7         N01382 N00177  66k TC=0,0 
R_R8         0 N01382  94k TC=0,0 
X_Q3         N00553 N00231 N00295 awb2n3904 PARAMS:                            
+                 
X_Q4         N00177 N01382 N01435 awb2n3904 PARAMS:                            
+                 
X_Q5         N02336 N02126 N02501 awb2n3904 PARAMS:                            
+                 
C_C4         N01435 N02126  10u  TC=0,0 
R_R9         N02126 N00177  47k TC=0,0 
R_R10         0 N02126  9.1k TC=0,0 
R_R11         N02336 N00177  2.7k TC=0,0 
R_R12         N02497 N02501  270 TC=0,0 
R_R13         0 N02497  360 TC=0,0 
C_C5         0 N02497  470u  TC=0,0 
