* source LAB03_TASK5
V_V1         N00570 0 2.7
V_V2         N00739 0 10
R_R1         N00570 N00578  100k TC=0,0 
X_Q1         N00739 N00578 0 awb2n3904 PARAMS:                                 
+            
