* source PRE_LAB2
V_V1         N00093 0  AC 0
+SIN 0 240 50 0 0 0
X1_TX1         N00093 0  N00171 N00164 ST_Model
R_R1         N00164 N00157  1k TC=0,0 
X_D1         N00171 N00157 awb1n4007 PARAMS:                
